US07291632B2
4-Fluoro-N-(6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-2-trifluoromethyl-benzamide hydrochloride
Prepare according to procedure in Example 66 starting with N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine (Preparation 34) (200 mg, 0.907 mmol), 4-fluoro-2-(trifluoromethyl)benzoyl chloride (165 μL, 1.09 mmol), and 1,4-dioxane (10 mL) to yield 332 mg (82%) of the title compound: mass spectrum (ion spray): m/z=410.8 (M+1); Analysis calc'd for C20H23N4OClF4.1.5H2O: C, 50.69; H, 5.53; N, 11.82. Found: C, 50.66; H, 5.17; N, 12.01. mp 100–2° C.

reactant | N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine | 0.907 mmol, 200 mg | CN(C1=NC(=CC=C1)N)C1CCN(CC1)C | C12H20N4
reactant | 4-fluoro-2-(trifluoromethyl)benzoyl chloride | 1.09 mmol, 165 μL | FC1=CC(=C(C(=O)Cl)C=C1)C(F)(F)F | C8H3ClF4O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-Fluoro-N-(6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-2-trifluoromethyl-benzamide hydrochloride | 332 mg, 82% | Cl.FC1=CC(=C(C(=O)NC2=NC(=CC=C2)N(C2CCN(CC2)C)C)C=C1)C(F)(F)F | InChI=1S/C20H22F4N4O.ClH/c1-27-10-8-14(9-11-27)28(2)18-5-3-4-17(25-18)26-19(29)15-7-6-13(21)12-16(15)20(22,23)24;/h3-7,12,14H,8-11H2,1-2H3,(H,25,26,29);1H
